### PR TITLE
[Merged by Bors] - feat(CategoryTheory): MorphismProperty.single

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 1]
```diff
@@ -214,6 +214,15 @@ lemma ofHoms_homFamily (P : MorphismProperty C) : ofHoms P.homFamily = P := by
   · intro hf
     exact ⟨(⟨f, hf⟩ : P.toSet)⟩
 
+/-- The class of morphisms containing a single morphism. -/
+abbrev single {X Y : C} (f : X ⟶ Y) : MorphismProperty C := .ofHoms (fun (_ : Unit) ↦ f)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: I think it would be nice to have a few convenience lemmas. I’m thinking about things like 
```lean
lemma prop_single {X Y : C} (f : X ⟶ Y) : (single f) f := by tauto

lemma ofHoms_le_iff {ι : Type*} {X Y : ι → C} (f : ∀ i, X i ⟶ Y i) (P : MorphismProperty C) :
    ofHoms f ≤ P ↔ ∀ i, P (f i) := by
  constructor
  · rintro h i
    exact h _ (ofHoms.mk (f := f) i)
  · intro h
    rintro x y g ⟨i⟩
    exact h i

lemma single_le_iff (W : MorphismProperty C) {X Y : C} (f : X ⟶ Y) : single f ≤ W ↔ W f := by
  rw [ofHoms_le_iff]
  aesop

```

File: Mathlib/CategoryTheory/ObjectProperty/Local.lean [hunk 2]
```diff
@@ -102,6 +102,29 @@ instance (J : Type u') [Category.{v'} J] :
...
+lemma isLocal_iSup {ι : Sort*} (W : ι → MorphismProperty C) :
+    (⨆ (i : ι), W i).isLocal = ⨅ (i : ι), (W i).isLocal := by
+  aesop
+
+attribute [local simp] isColocal_iff in
+@[simp]
+lemma isColocal_iSup {ι : Sort*} (W : ι → MorphismProperty C) :
+    (⨆ (i : ι), W i).isColocal = ⨅ (i : ι), (W i).isColocal := by
+  aesop
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/Local.lean:130]: If we are adding convenience lemmas, I would suggest this one as well:
```lean
attribute [local simp] isLocal_iff in
lemma isLocal_antitone {W W' : MorphismProperty C} (h : W ≤ W') :
    W'.isLocal ≤ W.isLocal := by
  intro f hf
  aesop

attribute [local simp] isColocal_iff in
lemma isColocal_antitone {W W' : MorphismProperty C} (h : W ≤ W') :
    W'.isColocal ≤ W.isColocal := by
  intro f hf
  aesop
```
(maybe with better naming)?

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
